US05760032
4-(2-Chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (10 g) was dissolved in dichloroethane (100 ml), and bromine (1.7 ml) was added under ice-cooling. The mixture was heated to room temperature, and allowed to stand overnight. The solvent was evaporated, and chloroform was added. The mixture was washed with an aqueous sodium thiosulfate solution, a saturated aqueous sodium hydrogencarbonate solution and brine, and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (developing solvent:ethyl acetate-hexane) and crystallized from ethyl acetate to give 3.4 g of 9-bromo-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine.

reactant | 4-(2-Chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 10 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C=NN2 | C16H13ClN4S
reactant | bromine | 1.7 ml | BrBr | Br2
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | 9-bromo-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 3.4 g | BrC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)CC | C16H12BrClN4S
